US07429591B2
A. 1-Methanesulfonyl-piperidin-4-one.
Potassium carbonate (324 g, 2340 mmol) was added to a solution of 4-piperidone monohydrate hydrochloride (90 g, 586 mmol) in chloroform (300 mL) and water (300 mL). The slurry was cooled to 0° C. and treated with methylsulfonyl chloride (136 mL, 1760 mmol) by dropwise addition over a 1 h period (gas evolution was observed). The reaction mixture was allowed to shake for 72 h and was partitioned between CH2Cl2 (500 mL) and saturated aqueous NaHCO3 (500 mL). The aqueous layer was extracted with CH2Cl2 (3×200 mL). The organic layer was washed with 1% KHSO4 (250 mL), dried (Na2SO4), and concentrated to afford 90.5 g (87%) of a white solid. MS (electrospray): exact mass calculated for C6H11NO3S, 177.1; m/z found, 178.1 [M+H]+. HPLC (reverse phase conditions): tR=2.19 min. 1H NMR (400 MHz, CDCl3): 3.60 (t, J=6.5 Hz, 4H), 2.89 (s, 3H), 2.59 (t, J=6.3 Hz, 4H). B. 5-Methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine. p-Toluenesulfonic acid (1.34 g. 7.0 mmol) and morpholine (25.83 mL, 296 mmol) were added to a solution of 1-methanesulfonyl-piperidin-4-one (50.0 g. 282 mmol) in benzene (282 mL). The reaction mixture was heated in a flask equipped with a condenser and a Dean-Stark trap at reflux for 15 h. The reaction mixture was cooled and concentrated in vacuo to give the enamine which was used without further purification. The enamine was dissolved in CH2Cl2 (200 mL) and cooled to 0° C. To this was added triethylamine (47.2 mL, 339 mmol) followed by dropwise addition of 4-trifluoromethylbenzoyl chloride (42.3 mL, 285 mmol) dissolved in CH2Cl2 (82 mL). The reaction mixture was allowed to warm to room temperature and stirred for 20 h. The reaction mixture was washed with 1 N aqueous HCl (250 mL) and the CH2Cl2 layer was separated, dried (Na2SO4), and concentrated. The resulting oil was taken up in EtOH (300 mL) and treated with hydrazine (44.3 mL, 1.41 mol) at 0° C. The reaction mixture was allowed to warm to room temperature and stirred for 24 h. The mixture was concentrated and the resulting solid was filtered with EtOH wash and dried in vacuo to afford 70 g (72%) of 5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine as a white solid. MS (electrospray): exact mass calculated for C14H14F3N3O2S, 345.0; m/z found, 346.0 [M+H]+. HPLC (reverse phase conditions): tR=6.33 min. 1H NMR (400 MHz, CDCl3): 7.72 (s, 4H), 4.58 (s, 2H), 3.69 (t, J=5.7 Hz, 2H), 2.99 (t, J=5.7 Hz, 2H), 2.92 (s, 3H). C. 3-[5-Methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propan-1-ol. Cs2CO3 (33.74 g, 103.5 mmol) was added to a solution of 5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine (29.8 g, 86.3 mmol) in anhydrous DMF (70 mL) and stirred for 25 min. 3-Bromo-1-propanol (8.6 mL, 13.2 g, 94.9 mmol) was added and stirred under N2 at room temperature for 18 h. Water (500 mL) was added to the reaction and stirred for 5 min. The precipitated material was filtered out and washed with water (4×100 mL) and dried in a Freeze Drying System. The crude material (31.0 g) was taken up in anhydrous DMF (65 mL) and Cs2CO3 (33.74 g, 103.5 mmol) was added, and stirred for 10 min. 3-Bromo-1-propanol (8.6 mL, 13.2 g, 94.9 mmol) and MeOH (6.0 mL, 4.75 g, 148 mmol) were added and stirring continued under N2 at room temperature for 15 h. Water (500 mL) was added to the reaction and stirred for 10 min. The precipitated material was filtered and washed with water (3×100 mL). The filter cake was dissolved in CH2Cl2 (200 mL) and washed with brine (50 mL), dried (Na2SO4), and concentrated. The solid was triturated with Et2O (200 mL), filtered, washed with Et2O, and dried to furnish 16.0 g of the desired compound. The mother liquor was chromatographed (silica, 0-10% acetone/EtOAc) to obtain an additional 3.0 g of the title compound. The combined yield was 54.6%. MS (electrospray): calculated for C17H20F3N3O3S, 403.12; m/z found, 404.0 [M+H]+, 426.0 [M+Na]+. 1H NMR (400 MHz, CDCl3): 7.71 (d, J=8.2 Hz, 2H), 7.66 (d, J=8.5 Hz, 2H), 4.55 (s, 2H), 4.23 (t, J=6.5 Hz, 2H), 3.70-3.63 (m, 4H), 2.90 (s, 3H), 2.90 (t, J=5.1 Hz, 2H), 2.62 (t, J=5.9 Hz, 1H), 2.06 (q, J=6.1 Hz, 2H). D. 3-[5-Methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propionaldehyde. Dess-Martin periodinane (3.45 g, 8.2 mmol) was added to a solution of 3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propan-1-ol (3.0 g, 7.4 mmol) in CH2Cl2 (20 mL) at 0° C. under N2. After 15 min, the reaction was allowed to warm to room temperature and stirred for another 1.5 h. The reaction was diluted with Et2O (60 mL) and 20% aq. NaHCO3 (35 mL) was added slowly. Then Na2S2O3 was added and stirred at room temperature for 30 min. The layers were separated and the aqueous portion was extracted with Et2O (2×30 mL). The combined organic extracts were washed with brine, dried (Na2SO4) and concentrated. MPLC (1-10% MeOH/CH2Cl2) afforded 2.53 g of the desired aldehyde in 85% yield. MS (electrospray): calculated for C17H18F3N3O3S, 401.11; m/z found, 402.1 [M+H], 434.1 [M+MeOH+H]. 1H NMR (400 MHz, CDCl3): 9.82 (s, 1H), 7.63 (d, J=8.4 Hz, 2H), 7.58 (d, J=8.4 Hz, 2H), 4.68 (s, 2H), 4.25 (t, J=6.1 Hz, 2H), 3.63 (t, J=5.8 Hz, 4H), 3.14 (t, J=6.1 Hz, 2H), 2.92 (t, J=5.8 Hz, 2H), 2.81 (s, 3H). E. 5-Methanesulfonyl-1-{3-[4-(2-nitro-phenyl)-piperazin-1-yl]-propyl}-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine. To a stirred solution of 3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propionaldehyde (0.060 g, 0.15 mmol) and 1-(2-nitro-phenyl)-piperazine (0.032 g, 0.157 mmol) in CH2Cl2 (0.5 mL), glacial AcOH (8.5 μL, 0.15 mmol) was added and stirred for 15 min at room temperature. NaBH(OAc)3 (0.041 g, 0.19 mmol) was added and stirred under nitrogen overnight. Saturated NaHCO3 (0.5 mL) was then added and stirred for 15 min. The layers separated and the aqueous layer was extracted with CH2Cl2 (0.5 mL). MPLC purification (silica, 2-15% MeOH/CH2Cl2) afforded the desired product as a white solid (0.063 g, 71%). TLC (silica, 12% MeOH/CH2Cl2): Rf=0.67. MS (electrospray): exact mass calculated for C27H31F3N6O4S, 592.21; m/z found, 593.2 [M+H]+. 1H NMR (400 MHz, CDCl3): 7.80 (dd, J=1.6, 8.2 Hz, 1H), 7.77 (d, J=8.3 Hz, 2H), 7.70 (d, J=8.3 Hz, 2H), 7.52 (ddd, J=1.6, 7.3, 8.3 Hz, 1H), 7.19 (dd, J=1.2, 8.3 Hz, 1H), 7.09 (m, 1H), 4.59 (s, 2H), 4.17 (t, J=6.9 Hz, 2H), 3.71 (t, J=5.8 Hz, 2H), 3.13 (br t, J=4.8 Hz, 4H), 2.96 (t, J=5.6 Hz, 2H), 2.95 (s, 3H), 2.66 (br t, J=4.4 Hz, 4H), 2.51 (t, J=7.0 Hz, 2H), 2.17 (q, J=6.9 Hz, 2H).

reactant | 5-Methanesulfonyl-1-{3-[4-(2-nitro-phenyl)-piperazin-1-yl]-propyl}-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-1H-pyrazolo[4,3-c]pyridine | CS(=O)(=O)N1CC2=C(CC1)N(N=C2C2=CC=C(C=C2)C(F)(F)F)CCCN2CCN(CC2)C2=C(C=CC=C2)[N+](=O)[O-] | C27H31F3N6O4S
reactant | 3-[5-methanesulfonyl-3-(4-trifluoromethyl-phenyl)-4,5,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-1-yl]-propionaldehyde | 0.15 mmol, 0.060 g | CS(=O)(=O)N1CC2=C(CC1)N(N=C2C2=CC=C(C=C2)C(F)(F)F)CCC=O | C17H18F3N3O3S
reactant | 1-(2-nitro-phenyl)-piperazine | 0.157 mmol, 0.032 g | [N+](=O)([O-])C1=C(C=CC=C1)N1CCNCC1 | C10H13N3O2
reactant | AcOH | 0.15 mmol, 8.5 μL | CC(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 0.19 mmol, 0.041 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 0.5 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | 1-Methanesulfonyl-piperidin-4-one | 0.063 g, 71% | CS(=O)(=O)N1CCC(CC1)=O | C6H11NO3S
